US06476026B1
A solution of methyl 3-(4-pyrid-4-ylthiazol-2-ylamino)benzoate (500 mg, 1.27 mmol) in a 3/2 mixture of methanol/THF (100 mL) was treated with an aqueous solution of sodium hydroxide ((240 mg, 6 mmol, 20 mL). The reaction mixture was stirred at 40° C. for approximately 12 hours and then concentrated. The residue was diluted with water (20 mL) and the diluted solution was acidified to pH 5 with dilute hydrochloric acid. A resulting solid was collected by filtration and washed with water to provide 3-(4-pyrid-4-ylthiazol-2-ylamino)benzoic acid (328 mg, 87% yield). HNMR (dmso-d6): 10.80 (1H, s), 8.63 (2H, m), 7.90 (7H, m). LC/MS: M+1: 297.86.

reactant | methyl 3-(4-pyrid-4-ylthiazol-2-ylamino)benzoate | 1.27 mmol, 500 mg | N1=CC=C(C=C1)C=1N=C(SC1)NC=1C=C(C(=O)OC)C=CC1 | C16H13N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol THF | 100 mL | CO.C1CCOC1
product | 3-(4-pyrid-4-ylthiazol-2-ylamino)benzoic acid | 328 mg, 87% yield | N1=CC=C(C=C1)C=1N=C(SC1)NC=1C=C(C(=O)O)C=CC1 | C15H11N3O2S
